US09102684B2
4-Bromo-2-iodo-3-methyl-benzoic acid ethyl ester
A mixture of 4-Bromo-2-iodo-3-methyl-benzoic acid (5.43 g, 0.016 mol) and conc.H2SO4 (5 mL) in EtOH (50 mL) is refluxed overnight. After reaction, evaporated out EtOH, extracted with ethyl acetate (3×50 mL), The combined organic phase is washed with water and brine, dried over Na2SO4, concentrated in vacuo, and purified by column chromatography on silica gel eluted with petrol ether and ethyl acetate to afford the desired compound. Yield: 5.2 g (88%)

reactant | 4-Bromo-2-iodo-3-methyl-benzoic acid | 0.016 mol, 5.43 g | BrC1=C(C(=C(C(=O)O)C=C1)I)C | C8H6BrIO2
reactant | H2SO4 | 5 mL | OS(=O)(=O)O | H2O4S
reactant | EtOH | 50 mL | CCO | C2H6O
product | 4-Bromo-2-iodo-3-methyl-benzoic acid ethyl ester | C(C)OC(C1=C(C(=C(C=C1)Br)C)I)=O | C10H10BrIO2
